US04238487
A solution of ethyl 2-(4-phthalimidobutyl)-benzofuran-6-carboxylate (3.9 g., 0.01 mole) and hydrazine hydrate (0.55 g., 0.011 mole) in ethanol (20 ml.) is heated at 60° C. for 8 hours. The solvent is evaporated at reduced pressure. The solid residue is treated with water and 5 N sodium hydroxide solution and then is extracted with chloroform. The evaporation of the solvent from the organic extract provides ethyl 2-(4-aminobutyl)benzofuran-6-carboxylate.

reactant | ethyl 2-(4-phthalimidobutyl)-benzofuran-6-carboxylate | 0.01 mole, 3.9 g | C1(C=2C(C(N1CCCCC=1OC3=C(C1)C=CC(=C3)C(=O)OCC)=O)=CC=CC2)=O | C23H21NO5
reactant | hydrazine hydrate | 0.011 mole, 0.55 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 2-(4-aminobutyl)benzofuran-6-carboxylate | NCCCCC=1OC2=C(C1)C=CC(=C2)C(=O)OCC | C15H19NO3
